US04244961
A mixture of 2.12 g diisopropylamine and 15 ml tetrahydrofuran is stirred under argon at 0°. To this solution is added over two minutes 14 ml of 1.5 M n-butyllithium. To this solution at 0° is added 0.6 g acetic acid. The mixture is stirred five minutes at 20° and then cooled to -70°. To this mixture is added a solution of 1.89 g N-benzyl-4-piperidone in 4 ml tetrahydrofuran. The mixture is allowed to warm to room temperature and poured into 50 ml 1% sodium hydroxide. This mixture is extracted with three 50 ml portions of diethyl ether. The aqueous phase is adjusted to pH 7.0 with 3 N hydrochloric acid and is extracted with five 40 ml portions of dichloroethane. Evaporation of the dichloromethane affords (1-benzyl-4-hydroxypiperidin-4-yl)acetic acid.

reactant | diisopropylamine | 2.12 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.5 M, 14 ml | C(CCC)[Li]
reactant | N-benzyl-4-piperidone | 1.89 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
product | (1-benzyl-4-hydroxypiperidin-4-yl)acetic acid | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC(=O)O | C14H19NO3
